US07179912B2
N1-(3-Morpholin-4-yl-propyl)-4-nitrobenzene-1,3-diamine
A mixture of 5-chloro-2-nitrophenylamine (1.3 g, 7.0 mmol), 3-(4-morpholinyl)-1-aminopropane (3.1 g, 20 mmol), and K2CO3 (3.0 g, 22 mmol) in DMF (20 mL) was stirred at 110° C. for 18 h. The reaction mixture was cooled to room temperature, poured into water (200 mL) and extracted with CH2Cl2 (100 mL). The combined organic extracts were washed with brine (50 mL), dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography (silica gel, 4×7.5 cm, eluted with 90/10 EtOAc/MeOH) to yield the product as an orange solid (0.45 g, 23%).

reactant | 5-chloro-2-nitrophenylamine | 7.0 mmol, 1.3 g | ClC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | 3-(4-morpholinyl)-1-aminopropane | 20 mmol, 3.1 g | N1(CCOCC1)CCCN | C7H16N2O
reactant | K2CO3 | 22 mmol, 3.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 200 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N1-(3-Morpholin-4-yl-propyl)-4-nitrobenzene-1,3-diamine | 0.45 g, 23% | N1(CCOCC1)CCCNC1=CC(=C(C=C1)[N+](=O)[O-])N | C13H20N4O3
